US04367234
Ethyl 1-(3-Fluoro-2-methylphenyl)-1-hydroxymethanecarboximidate Hydrochloride
By the procedure of Example 65, 2-(3-fluoro-2-methoxy-5-methylphenyl)-2-trimethylsiloxyethanenitrile (0.48 g., 1.79 mmoles) in 20 ml. of saturated ethanolic hydrogen chloride was converted to ethyl 1-(3-fluoro-2-methoxy-5-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride [0.36 g.; m.p. 105°-106° C. (dec)].

reactant | 2-(3-fluoro-2-methoxy-5-methylphenyl)-2-trimethylsiloxyethanenitrile | 1.79 mmoles, 0.48 g | FC=1C(=C(C=C(C1)C)C(C#N)O[Si](C)(C)C)OC | C13H18FNO2Si
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl 1-(3-fluoro-2-methoxy-5-methylphenyl)-1-hydroxymethanecarboximidate hydrochloride | 0.36 g | Cl.FC=1C(=C(C=C(C1)C)C(C(OCC)=N)O)OC
product | Ethyl 1-(3-Fluoro-2-methylphenyl)-1-hydroxymethanecarboximidate Hydrochloride | Cl.FC=1C(=C(C=CC1)C(C(OCC)=N)O)C | InChI=1S/C11H14FNO2.ClH/c1-3-15-11(13)10(14)8-5-4-6-9(12)7(8)2;/h4-6,10,13-14H,3H2,1-2H3;1H
